Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p fall from ladder
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ male on Plavix, presenting as a basic trauma 
transfer from ___ after a 6 foot fall from ladder. Patient was found to 
have right ___ and eighth rib fractures with a small apical 
pneumothorax. CT scan of the head and C-spine were negative. CT 
scan of the torso showed no other acute injuries.
Basic trauma: On arrival given mechanism and injury.
 
Past Medical History:
PMH: HTN, HLD, MI, CAD s/p CABG, ___

___: open AAA repair ___, CABGx4 ___
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
Admission Physical Exam:

Temp: 97 HR: 60 BP: 142/73 Resp: 14 O(2)Sat: 95 Normal
 
Constitutional: Patient is well appearing and in NAD
HEENT: Normocephalic, atraumatic, Pupils equal, round and
reactive to light, Extraocular muscles intact
Neck is supple
Chest: Clear to auscultation, mild tenderness over right
lower ribs
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds
Abdominal: Nontender, Soft, Nondistended
Extr/Back: No cyanosis, clubbing or edema, no tenderness or
deformity
Skin: No rash, Warm and dry
Neuro: Speech fluent, moving all extremities
Psych: Normal mood, Normal mentation

Discharge Physical Exam:
VS: T: 97.9 PO BP: 125/77 R Lying HR: 56 RR: 16 O2: 92% Ra 
GEN: A+Ox3, NAD
HEENT: atraumatic, MMM
CV: RRR
PULM: CTA b/l
CHEST: no crepitus, symmetric expansion 
ABD: soft, non-distended, non-tender b/l
EXT: wwp, no edema b/l

 
Pertinent Results:
IMAGING:

___: CXR:
1. No definite pneumothorax, though supine positioning limits 
evaluation. 
2. Possible nondisplaced lateral right sixth rib fracture.  
Additional 
fractures are not well visualized although the ribs are 
incompletely imaged. 

LABS:

___ 04:45PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 04:45PM URINE  BLOOD-TR* NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 04:45PM URINE  RBC-1 WBC-1 BACTERIA-FEW* YEAST-NONE 
EPI-0
___ 04:45PM URINE  MUCOUS-RARE*
___ 01:15AM   GLUCOSE-99 UREA N-32* CREAT-1.5* SODIUM-141 
POTASSIUM-4.8 CHLORIDE-106 TOTAL CO2-19* ANION GAP-16
___ 01:15AM   WBC-10.0 RBC-5.01 HGB-15.1 HCT-46.7 MCV-93 
MCH-30.1 MCHC-32.3 RDW-13.3 RDWSD-45.5
___ 01:15AM   NEUTS-56.2 ___ MONOS-7.4 EOS-2.4 
BASOS-0.9 IM ___ AbsNeut-5.60 AbsLymp-3.25 AbsMono-0.74 
AbsEos-0.24 AbsBaso-0.09*
___ 01:15AM   PLT COUNT-163
___ 01:15AM   ___ PTT-29.4 ___
 
Brief Hospital Course:
Mr. ___ is a ___ y/o M who presented to ___ s/p fall from 
ladder.  He was found to have right rib fractures ___ rib and a 
small right apical pneumothorax.  He was admitted to the Trauma 
Surgery for pain control and respiratory monitoring. 

Pain was controlled with acetaminophen and tramadol. The patient 
remained stable from a pulmonary standpoint; vital signs were 
routinely monitored. Good pulmonary toilet, early ambulation and 
incentive spirometry were encouraged throughout hospitalization. 
 He was weaned off of nasal cannula to room air.  He remained 
stable from a cardiovascular standpoint.  He remained alert and 
oriented throughout hospitalization. The patient's fever curves 
were closely watched for signs of infection, of which there were 
none. The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.  He ambulated 
independently. He tolerated a regular diet. The patient's 
creatinine was 1.5 and 1.4 during his hospitalization, which per 
the patient is around his baseline.      

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Metoprolol Succinate XL 50 mg PO DAILY 
3. Simvastatin 60 mg PO QPM 
4. Clopidogrel 75 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*40 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
please hold for loose stool  
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*14 Tablet Refills:*0 
3.  Lidocaine 5% Patch 1 PTCH TD QAM Right rib fx's 
RX *lidocaine 5 % apply patch to area of rib pain QAM Disp #*15 
Patch Refills:*0 
4.  Nicotine Patch 21 mg TD DAILY 
RX *nicotine 21 mg/24 hour Apply patch to area of upper arm 
DAILY Disp #*14 Patch Refills:*0 
5.  Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*10 Tablet Refills:*0 
6.  TraMADol 50 mg PO Q4H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
do NOT drink alcohol or drive while taking this medication  
RX *tramadol 50 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0 
7.  Aspirin 81 mg PO DAILY  
8.  Clopidogrel 75 mg PO DAILY  
9.  Metoprolol Succinate XL 50 mg PO DAILY  
10.  Simvastatin 60 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right ___ rib fractures
Right apical pneumothorax

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were transferred to ___ 
after a fall. You were found to have multiple right sided rib 
fractures and a small injury to the lung. Your pain is now 
controlled on oral pain medicine and your respiratory status is 
stable. You are ready for discharge home to continue your 
recovery. Please note the following discharge instructions:

* Your injury caused several rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___